US04906634
N-Ethyl-N-(5-methylhexyl)-N'-(4-nitrophenyl)-1,2-ethanediamine
In a manner similar to Preparation 1 react N-ethyl N-(5-methylhexyl)-1,2-ethanediamine with 4-fluoro-1-nitrobenzene to obtain the title compound.

reactant | N-ethyl N-(5-methylhexyl)-1,2-ethanediamine | C(C)N(CCN)CCCCC(C)C | C11H26N2
reactant | 4-fluoro-1-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
product | N-Ethyl-N-(5-methylhexyl)-N'-(4-nitrophenyl)-1,2-ethanediamine | C(C)N(CCNC1=CC=C(C=C1)[N+](=O)[O-])CCCCC(C)C | C17H29N3O2
